US06025170
A 15 1 bioreactor containing 10 1 of medium was seeded with 2×800 ml of an inoculum of Clostridium tyrobutyricum I-776. Strict anaerobic and sterile conditions were maintained. The pH was kept at 6.5, the temperature at 35° C., the stirring speed at 300/min; the initial concentration of glucose was 90 g/l. When the glucose was exhausted (48 h), the cells were gathered for centrifugation over 30 min at 4° C., for example at 10000 ×g. The humid mass of the cells was gathered and put into a 2 1 reactor under strictly sterile and anaerobic conditions. The volume was adjusted to a total of 1 1 with a buffer solution of pH 7. The medium contained about 90 g/l of dry matter. NH4OH was added to maintain a pH of 7, and a glucose solution of 500 g/l was also added, to adjust the glucose concentration to about 20 g/l. 2-Decen-5-olide was added semicontinuously. After 40 h, δ-decalactone was obtained in a concentration of 7 g/l, which corresponds to a conversion of 72%.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NH4OH | [NH4+].[OH-]
product | δ-decalactone | CCCCCC1CCCC(=O)O1 | C10H18O2
